US06268387B1
Step C: 3-(Phenylamino)-4-methoxybenzoic acid, phenyl ester
N,N′-Carbonyldiimidazole (0.41 g, 2.5 mmol) was added to a stirred solution of 3-(phenylamino)-4-methoxybenzoic acid (0.6 g, 2.5 mmol) in dimethylformamide (15 mL) under an inert atmosphere. After 30 minutes, the solution was heated to 50° C. for 1 hour, then phenol (0.24 g, 2.6 mmol) was added followed by diazabicycloundecene (0.40 g, 2.6 mmol) and heating at 50° C. was continued for 20 more hours. The mixture was allowed to cool and was then diluted with diethyl ether (100 mL) and washed successively with 2N HCl, water, 0.5N K2CO3, and saturated brine then dried over MgSO4. The solvent was removed under reduced pressure, and the residue was chromatographed on a column of silica gel in ethyl acetate to afford the product (0.27 g); m.p. 130-131° C. after recrystallization from acetonitrile.

reactant | 3-(phenylamino)-4-methoxybenzoic acid | 2.5 mmol, 0.6 g | C1(=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1OC | C14H13NO3
reactant | phenol | 2.6 mmol, 0.24 g | C1(=CC=CC=C1)O | C6H6O
reactant | diazabicycloundecene | 2.6 mmol, 0.40 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(Phenylamino)-4-methoxybenzoic acid, phenyl ester | 0.27 g | C1(=CC=CC=C1)NC=1C=C(C(=O)OC2=CC=CC=C2)C=CC1OC | C20H17NO3
